* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : test_opamp_modgen                            *
* Netlisted  : Thu Nov 25 07:40:07 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_2 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_3 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_4                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_4 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_5                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_5 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_5

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3_M2_CDNS_6                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3_M2_CDNS_6 1
** N=1 EP=1 FDC=0
.ends M3_M2_CDNS_6

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M3_M2_CDNS_8                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M3_M2_CDNS_8 1
** N=1 EP=1 FDC=0
.ends M3_M2_CDNS_8

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_9                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_9 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 4 4 nmos3 L=2e-06 W=1e-05 AD=2.5e-11 AS=0 PD=2.5e-05 PS=0 fw=1e-05 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_9

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_10                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_10 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 4 4 nmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_10

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_11                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_11 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 4 4 pmos3 L=1e-06 W=6e-06 AD=1.5e-11 AS=0 PD=1.7e-05 PS=0 fw=6e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_11

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: test_opamp_modgen                               *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt test_opamp_modgen BIAS INN INP OUT VD VS
** N=10 EP=6 FDC=50
X0 INN M2_M1_CDNS_1 $T=39220 190800 0 0 $X=37220 $Y=188800
X1 INP M2_M1_CDNS_1 $T=51220 198800 0 0 $X=49220 $Y=196800
X2 INN M2_M1_CDNS_1 $T=61460 190800 0 0 $X=59460 $Y=188800
X3 INP M2_M1_CDNS_1 $T=61460 198800 0 0 $X=59460 $Y=196800
X4 3 M2_M1_CDNS_1 $T=72620 22600 0 0 $X=70620 $Y=20600
X5 3 M2_M1_CDNS_1 $T=72620 114600 0 0 $X=70620 $Y=112600
X6 INN M2_M1_CDNS_1 $T=75700 190800 0 0 $X=73700 $Y=188800
X7 BIAS M2_M1_CDNS_1 $T=76620 64600 0 0 $X=74620 $Y=62600
X8 BIAS M2_M1_CDNS_1 $T=76620 68600 0 0 $X=74620 $Y=66600
X9 BIAS M2_M1_CDNS_1 $T=76620 72600 0 0 $X=74620 $Y=70600
X10 VS M2_M1_CDNS_1 $T=80620 30600 0 0 $X=78620 $Y=28600
X11 VS M2_M1_CDNS_1 $T=80620 106600 0 0 $X=78620 $Y=104600
X12 INP M2_M1_CDNS_1 $T=87700 198800 0 0 $X=85700 $Y=196800
X13 3 M2_M1_CDNS_1 $T=88860 22600 0 0 $X=86860 $Y=20600
X14 3 M2_M1_CDNS_1 $T=88860 114600 0 0 $X=86860 $Y=112600
X15 BIAS M2_M1_CDNS_1 $T=92860 64600 0 0 $X=90860 $Y=62600
X16 BIAS M2_M1_CDNS_1 $T=92860 72600 0 0 $X=90860 $Y=70600
X17 VS M2_M1_CDNS_1 $T=96860 30600 0 0 $X=94860 $Y=28600
X18 VS M2_M1_CDNS_1 $T=96860 106600 0 0 $X=94860 $Y=104600
X19 INN M2_M1_CDNS_1 $T=97940 190800 0 0 $X=95940 $Y=188800
X20 INP M2_M1_CDNS_1 $T=97940 198800 0 0 $X=95940 $Y=196800
X21 BIAS M2_M1_CDNS_1 $T=109100 64600 0 0 $X=107100 $Y=62600
X22 BIAS M2_M1_CDNS_1 $T=109100 72600 0 0 $X=107100 $Y=70600
X23 INN M2_M1_CDNS_1 $T=112180 190800 0 0 $X=110180 $Y=188800
X24 VS M2_M1_CDNS_1 $T=113100 30600 0 0 $X=111100 $Y=28600
X25 VS M2_M1_CDNS_1 $T=113100 106600 0 0 $X=111100 $Y=104600
X26 3 M2_M1_CDNS_1 $T=121340 22600 0 0 $X=119340 $Y=20600
X27 3 M2_M1_CDNS_1 $T=121340 114600 0 0 $X=119340 $Y=112600
X28 INP M2_M1_CDNS_1 $T=124180 198800 0 0 $X=122180 $Y=196800
X29 BIAS M2_M1_CDNS_1 $T=125340 64600 0 0 $X=123340 $Y=62600
X30 BIAS M2_M1_CDNS_1 $T=125340 72600 0 0 $X=123340 $Y=70600
X31 VS M2_M1_CDNS_1 $T=129340 30600 0 0 $X=127340 $Y=28600
X32 VS M2_M1_CDNS_1 $T=129340 106600 0 0 $X=127340 $Y=104600
X33 INN M2_M1_CDNS_1 $T=134420 190800 0 0 $X=132420 $Y=188800
X34 INP M2_M1_CDNS_1 $T=134420 198800 0 0 $X=132420 $Y=196800
X35 3 M2_M1_CDNS_1 $T=137580 22600 0 0 $X=135580 $Y=20600
X36 3 M2_M1_CDNS_1 $T=137580 114600 0 0 $X=135580 $Y=112600
X37 BIAS M2_M1_CDNS_1 $T=141580 64600 0 0 $X=139580 $Y=62600
X38 BIAS M2_M1_CDNS_1 $T=141580 72600 0 0 $X=139580 $Y=70600
X39 VS M2_M1_CDNS_1 $T=145580 30600 0 0 $X=143580 $Y=28600
X40 VS M2_M1_CDNS_1 $T=145580 106600 0 0 $X=143580 $Y=104600
X41 INN M2_M1_CDNS_1 $T=148660 190800 0 0 $X=146660 $Y=188800
X42 INP M2_M1_CDNS_1 $T=160660 198800 0 0 $X=158660 $Y=196800
X43 INN M2_M1_CDNS_1 $T=170900 190800 0 0 $X=168900 $Y=188800
X44 INP M2_M1_CDNS_1 $T=170900 198800 0 0 $X=168900 $Y=196800
X45 INN M2_M1_CDNS_1 $T=185140 190800 0 0 $X=183140 $Y=188800
X46 INP M2_M1_CDNS_1 $T=197140 198800 0 0 $X=195140 $Y=196800
X47 INN M2_M1_CDNS_1 $T=207380 190800 0 0 $X=205380 $Y=188800
X48 INP M2_M1_CDNS_1 $T=207380 198800 0 0 $X=205380 $Y=196800
X49 VS M2_M1_CDNS_2 $T=60620 30600 0 0 $X=57610 $Y=28600
X50 VS M2_M1_CDNS_2 $T=60620 106600 0 0 $X=57610 $Y=104600
X51 VS M2_M1_CDNS_2 $T=157580 30600 0 0 $X=154570 $Y=28600
X52 VS M2_M1_CDNS_2 $T=157580 106600 0 0 $X=154570 $Y=104600
X53 6 M2_M1_CDNS_3 $T=38220 136800 0 0 $X=36220 $Y=133790
X54 OUT M2_M1_CDNS_3 $T=38220 252800 0 0 $X=36220 $Y=249790
X55 3 M2_M1_CDNS_3 $T=48220 148800 0 0 $X=46220 $Y=145790
X56 3 M2_M1_CDNS_3 $T=48220 240800 0 0 $X=46220 $Y=237790
X57 OUT M2_M1_CDNS_3 $T=56460 124800 0 0 $X=54460 $Y=121790
X58 6 M2_M1_CDNS_3 $T=56460 264800 0 0 $X=54460 $Y=261790
X59 3 M2_M1_CDNS_3 $T=66460 148800 0 0 $X=64460 $Y=145790
X60 3 M2_M1_CDNS_3 $T=66460 240800 0 0 $X=64460 $Y=237790
X61 6 M2_M1_CDNS_3 $T=74700 136800 0 0 $X=72700 $Y=133790
X62 OUT M2_M1_CDNS_3 $T=74700 252800 0 0 $X=72700 $Y=249790
X63 3 M2_M1_CDNS_3 $T=84700 148800 0 0 $X=82700 $Y=145790
X64 3 M2_M1_CDNS_3 $T=84700 240800 0 0 $X=82700 $Y=237790
X65 OUT M2_M1_CDNS_3 $T=92940 124800 0 0 $X=90940 $Y=121790
X66 6 M2_M1_CDNS_3 $T=92940 264800 0 0 $X=90940 $Y=261790
X67 3 M2_M1_CDNS_3 $T=102940 148800 0 0 $X=100940 $Y=145790
X68 3 M2_M1_CDNS_3 $T=102940 240800 0 0 $X=100940 $Y=237790
X69 6 M2_M1_CDNS_3 $T=111180 136800 0 0 $X=109180 $Y=133790
X70 OUT M2_M1_CDNS_3 $T=111180 252800 0 0 $X=109180 $Y=249790
X71 3 M2_M1_CDNS_3 $T=121180 148800 0 0 $X=119180 $Y=145790
X72 3 M2_M1_CDNS_3 $T=121180 240800 0 0 $X=119180 $Y=237790
X73 OUT M2_M1_CDNS_3 $T=129420 124800 0 0 $X=127420 $Y=121790
X74 6 M2_M1_CDNS_3 $T=129420 264800 0 0 $X=127420 $Y=261790
X75 3 M2_M1_CDNS_3 $T=139420 148800 0 0 $X=137420 $Y=145790
X76 3 M2_M1_CDNS_3 $T=139420 240800 0 0 $X=137420 $Y=237790
X77 6 M2_M1_CDNS_3 $T=147660 136800 0 0 $X=145660 $Y=133790
X78 OUT M2_M1_CDNS_3 $T=147660 252800 0 0 $X=145660 $Y=249790
X79 3 M2_M1_CDNS_3 $T=157660 148800 0 0 $X=155660 $Y=145790
X80 3 M2_M1_CDNS_3 $T=157660 240800 0 0 $X=155660 $Y=237790
X81 OUT M2_M1_CDNS_3 $T=165900 124800 0 0 $X=163900 $Y=121790
X82 6 M2_M1_CDNS_3 $T=165900 264800 0 0 $X=163900 $Y=261790
X83 3 M2_M1_CDNS_3 $T=175900 148800 0 0 $X=173900 $Y=145790
X84 3 M2_M1_CDNS_3 $T=175900 240800 0 0 $X=173900 $Y=237790
X85 6 M2_M1_CDNS_3 $T=184140 136800 0 0 $X=182140 $Y=133790
X86 OUT M2_M1_CDNS_3 $T=184140 252800 0 0 $X=182140 $Y=249790
X87 3 M2_M1_CDNS_3 $T=194140 148800 0 0 $X=192140 $Y=145790
X88 3 M2_M1_CDNS_3 $T=194140 240800 0 0 $X=192140 $Y=237790
X89 OUT M2_M1_CDNS_3 $T=202380 124800 0 0 $X=200380 $Y=121790
X90 6 M2_M1_CDNS_3 $T=202380 264800 0 0 $X=200380 $Y=261790
X91 3 M2_M1_CDNS_3 $T=212380 148800 0 0 $X=210380 $Y=145790
X92 3 M2_M1_CDNS_3 $T=212380 240800 0 0 $X=210380 $Y=237790
X93 OUT M2_M1_CDNS_3 $T=283500 44800 0 0 $X=281500 $Y=41790
X94 6 M2_M1_CDNS_3 $T=283500 90800 0 0 $X=281500 $Y=87790
X95 OUT M2_M1_CDNS_3 $T=283500 160800 0 0 $X=281500 $Y=157790
X96 6 M2_M1_CDNS_3 $T=283500 206800 0 0 $X=281500 $Y=203790
X97 6 M2_M1_CDNS_3 $T=287500 90800 0 0 $X=285500 $Y=87790
X98 6 M2_M1_CDNS_3 $T=287500 148800 0 0 $X=285500 $Y=145790
X99 6 M2_M1_CDNS_3 $T=287500 206800 0 0 $X=285500 $Y=203790
X100 6 M2_M1_CDNS_3 $T=287500 264800 0 0 $X=285500 $Y=261790
X101 VD M2_M1_CDNS_3 $T=291500 56800 0 0 $X=289500 $Y=53790
X102 VD M2_M1_CDNS_3 $T=291500 114800 0 0 $X=289500 $Y=111790
X103 VD M2_M1_CDNS_3 $T=291500 172800 0 0 $X=289500 $Y=169790
X104 VD M2_M1_CDNS_3 $T=291500 230800 0 0 $X=289500 $Y=227790
X105 6 M2_M1_CDNS_3 $T=299900 32800 0 0 $X=297900 $Y=29790
X106 OUT M2_M1_CDNS_3 $T=299900 102800 0 0 $X=297900 $Y=99790
X107 6 M2_M1_CDNS_3 $T=299900 148800 0 0 $X=297900 $Y=145790
X108 OUT M2_M1_CDNS_3 $T=299900 218800 0 0 $X=297900 $Y=215790
X109 6 M2_M1_CDNS_3 $T=303900 90800 0 0 $X=301900 $Y=87790
X110 6 M2_M1_CDNS_3 $T=303900 148800 0 0 $X=301900 $Y=145790
X111 6 M2_M1_CDNS_3 $T=303900 206800 0 0 $X=301900 $Y=203790
X112 6 M2_M1_CDNS_3 $T=303900 264800 0 0 $X=301900 $Y=261790
X113 VD M2_M1_CDNS_3 $T=307900 56800 0 0 $X=305900 $Y=53790
X114 VD M2_M1_CDNS_3 $T=307900 114800 0 0 $X=305900 $Y=111790
X115 VD M2_M1_CDNS_3 $T=307900 172800 0 0 $X=305900 $Y=169790
X116 VD M2_M1_CDNS_3 $T=307900 230800 0 0 $X=305900 $Y=227790
X117 OUT M2_M1_CDNS_3 $T=316300 44800 0 0 $X=314300 $Y=41790
X118 6 M2_M1_CDNS_3 $T=316300 90800 0 0 $X=314300 $Y=87790
X119 OUT M2_M1_CDNS_3 $T=316300 160800 0 0 $X=314300 $Y=157790
X120 6 M2_M1_CDNS_3 $T=316300 206800 0 0 $X=314300 $Y=203790
X121 6 M2_M1_CDNS_3 $T=320300 90800 0 0 $X=318300 $Y=87790
X122 6 M2_M1_CDNS_3 $T=320300 148800 0 0 $X=318300 $Y=145790
X123 6 M2_M1_CDNS_3 $T=320300 206800 0 0 $X=318300 $Y=203790
X124 6 M2_M1_CDNS_3 $T=320300 264800 0 0 $X=318300 $Y=261790
X125 VD M2_M1_CDNS_3 $T=324300 56800 0 0 $X=322300 $Y=53790
X126 VD M2_M1_CDNS_3 $T=324300 114800 0 0 $X=322300 $Y=111790
X127 VD M2_M1_CDNS_3 $T=324300 172800 0 0 $X=322300 $Y=169790
X128 VD M2_M1_CDNS_3 $T=324300 230800 0 0 $X=322300 $Y=227790
X129 6 M2_M1_CDNS_3 $T=332700 32800 0 0 $X=330700 $Y=29790
X130 OUT M2_M1_CDNS_3 $T=332700 102800 0 0 $X=330700 $Y=99790
X131 6 M2_M1_CDNS_3 $T=332700 148800 0 0 $X=330700 $Y=145790
X132 OUT M2_M1_CDNS_3 $T=332700 218800 0 0 $X=330700 $Y=215790
X133 6 M2_M1_CDNS_3 $T=336700 90800 0 0 $X=334700 $Y=87790
X134 6 M2_M1_CDNS_3 $T=336700 148800 0 0 $X=334700 $Y=145790
X135 6 M2_M1_CDNS_3 $T=336700 206800 0 0 $X=334700 $Y=203790
X136 6 M2_M1_CDNS_3 $T=336700 264800 0 0 $X=334700 $Y=261790
X137 VD M2_M1_CDNS_3 $T=340700 56800 0 0 $X=338700 $Y=53790
X138 VD M2_M1_CDNS_3 $T=340700 114800 0 0 $X=338700 $Y=111790
X139 VD M2_M1_CDNS_3 $T=340700 172800 0 0 $X=338700 $Y=169790
X140 VD M2_M1_CDNS_3 $T=340700 230800 0 0 $X=338700 $Y=227790
X141 OUT M2_M1_CDNS_3 $T=349100 44800 0 0 $X=347100 $Y=41790
X142 6 M2_M1_CDNS_3 $T=349100 90800 0 0 $X=347100 $Y=87790
X143 OUT M2_M1_CDNS_3 $T=349100 160800 0 0 $X=347100 $Y=157790
X144 6 M2_M1_CDNS_3 $T=349100 206800 0 0 $X=347100 $Y=203790
X145 6 M2_M1_CDNS_3 $T=353100 90800 0 0 $X=351100 $Y=87790
X146 6 M2_M1_CDNS_3 $T=353100 148800 0 0 $X=351100 $Y=145790
X147 6 M2_M1_CDNS_3 $T=353100 206800 0 0 $X=351100 $Y=203790
X148 6 M2_M1_CDNS_3 $T=353100 264800 0 0 $X=351100 $Y=261790
X149 VD M2_M1_CDNS_3 $T=357100 56800 0 0 $X=355100 $Y=53790
X150 VD M2_M1_CDNS_3 $T=357100 114800 0 0 $X=355100 $Y=111790
X151 VD M2_M1_CDNS_3 $T=357100 172800 0 0 $X=355100 $Y=169790
X152 VD M2_M1_CDNS_3 $T=357100 230800 0 0 $X=355100 $Y=227790
X153 3 M2_M1_CDNS_4 $T=26220 148800 0 0 $X=23160 $Y=145790
X154 3 M2_M1_CDNS_4 $T=26220 240800 0 0 $X=23160 $Y=237790
X155 3 M2_M1_CDNS_4 $T=224380 148800 0 0 $X=221320 $Y=145790
X156 3 M2_M1_CDNS_4 $T=224380 240800 0 0 $X=221320 $Y=237790
X157 6 M2_M1_CDNS_4 $T=259500 32800 0 0 $X=256440 $Y=29790
X158 6 M2_M1_CDNS_4 $T=259500 90800 0 0 $X=256440 $Y=87790
X159 6 M2_M1_CDNS_4 $T=259500 148800 0 0 $X=256440 $Y=145790
X160 6 M2_M1_CDNS_4 $T=259500 206800 0 0 $X=256440 $Y=203790
X161 6 M2_M1_CDNS_4 $T=259500 264800 0 0 $X=256440 $Y=261790
X162 VD M2_M1_CDNS_4 $T=271500 56800 0 0 $X=268440 $Y=53790
X163 VD M2_M1_CDNS_4 $T=271500 114800 0 0 $X=268440 $Y=111790
X164 VD M2_M1_CDNS_4 $T=271500 172800 0 0 $X=268440 $Y=169790
X165 VD M2_M1_CDNS_4 $T=271500 230800 0 0 $X=268440 $Y=227790
X166 VD M2_M1_CDNS_4 $T=369100 56800 0 0 $X=366040 $Y=53790
X167 VD M2_M1_CDNS_4 $T=369100 114800 0 0 $X=366040 $Y=111790
X168 VD M2_M1_CDNS_4 $T=369100 172800 0 0 $X=366040 $Y=169790
X169 VD M2_M1_CDNS_4 $T=369100 230800 0 0 $X=366040 $Y=227790
X170 OUT M2_M1_CDNS_4 $T=381100 44800 0 0 $X=378040 $Y=41790
X171 OUT M2_M1_CDNS_4 $T=381100 102800 0 0 $X=378040 $Y=99790
X172 OUT M2_M1_CDNS_4 $T=381100 160800 0 0 $X=378040 $Y=157790
X173 OUT M2_M1_CDNS_4 $T=381100 218800 0 0 $X=378040 $Y=215790
X174 VD M2_M1_CDNS_5 $T=271400 287600 0 0 $X=267400 $Y=279600
X175 VD M2_M1_CDNS_5 $T=369100 287600 0 0 $X=365100 $Y=279600
X176 3 M3_M2_CDNS_6 $T=48620 22600 0 0 $X=45610 $Y=20600
X177 3 M3_M2_CDNS_6 $T=48620 114600 0 0 $X=45610 $Y=112600
X178 3 M3_M2_CDNS_6 $T=169580 22600 0 0 $X=166570 $Y=20600
X179 3 M3_M2_CDNS_6 $T=169580 114600 0 0 $X=166570 $Y=112600
X180 INN M3_M2_CDNS_8 $T=31200 190800 0 0 $X=25200 $Y=188800
X181 INP M3_M2_CDNS_8 $T=31200 198800 0 0 $X=25200 $Y=196800
X182 9 6 INP 3 nmos3_CDNS_9 $T=34220 154800 0 0 $X=34220 $Y=154800
X183 9 OUT INN 3 nmos3_CDNS_9 $T=34220 234800 1 0 $X=34220 $Y=204800
X184 9 OUT INN 3 nmos3_CDNS_9 $T=52460 154800 0 0 $X=52460 $Y=154800
X185 9 6 INP 3 nmos3_CDNS_9 $T=52460 234800 1 0 $X=52460 $Y=204800
X186 9 6 INP 3 nmos3_CDNS_9 $T=70700 154800 0 0 $X=70700 $Y=154800
X187 9 OUT INN 3 nmos3_CDNS_9 $T=70700 234800 1 0 $X=70700 $Y=204800
X188 9 OUT INN 3 nmos3_CDNS_9 $T=88940 154800 0 0 $X=88940 $Y=154800
X189 9 6 INP 3 nmos3_CDNS_9 $T=88940 234800 1 0 $X=88940 $Y=204800
X190 9 6 INP 3 nmos3_CDNS_9 $T=107180 154800 0 0 $X=107180 $Y=154800
X191 9 OUT INN 3 nmos3_CDNS_9 $T=107180 234800 1 0 $X=107180 $Y=204800
X192 9 OUT INN 3 nmos3_CDNS_9 $T=125420 154800 0 0 $X=125420 $Y=154800
X193 9 6 INP 3 nmos3_CDNS_9 $T=125420 234800 1 0 $X=125420 $Y=204800
X194 9 6 INP 3 nmos3_CDNS_9 $T=143660 154800 0 0 $X=143660 $Y=154800
X195 9 OUT INN 3 nmos3_CDNS_9 $T=143660 234800 1 0 $X=143660 $Y=204800
X196 9 OUT INN 3 nmos3_CDNS_9 $T=161900 154800 0 0 $X=161900 $Y=154800
X197 9 6 INP 3 nmos3_CDNS_9 $T=161900 234800 1 0 $X=161900 $Y=204800
X198 9 6 INP 3 nmos3_CDNS_9 $T=180140 154800 0 0 $X=180140 $Y=154800
X199 9 OUT INN 3 nmos3_CDNS_9 $T=180140 234800 1 0 $X=180140 $Y=204800
X200 9 OUT INN 3 nmos3_CDNS_9 $T=198380 154800 0 0 $X=198380 $Y=154800
X201 9 6 INP 3 nmos3_CDNS_9 $T=198380 234800 1 0 $X=198380 $Y=204800
X202 9 3 BIAS VS nmos3_CDNS_10 $T=68620 34600 0 0 $X=68620 $Y=34600
X203 9 3 BIAS VS nmos3_CDNS_10 $T=68620 102600 1 0 $X=68620 $Y=76600
X204 9 3 BIAS VS nmos3_CDNS_10 $T=84860 34600 0 0 $X=84860 $Y=34600
X205 9 3 BIAS VS nmos3_CDNS_10 $T=84860 102600 1 0 $X=84860 $Y=76600
X206 9 BIAS BIAS VS nmos3_CDNS_10 $T=101100 34600 0 0 $X=101100 $Y=34600
X207 9 BIAS BIAS VS nmos3_CDNS_10 $T=101100 102600 1 0 $X=101100 $Y=76600
X208 9 3 BIAS VS nmos3_CDNS_10 $T=117340 34600 0 0 $X=117340 $Y=34600
X209 9 3 BIAS VS nmos3_CDNS_10 $T=117340 102600 1 0 $X=117340 $Y=76600
X210 9 3 BIAS VS nmos3_CDNS_10 $T=133580 34600 0 0 $X=133580 $Y=34600
X211 9 3 BIAS VS nmos3_CDNS_10 $T=133580 102600 1 0 $X=133580 $Y=76600
X212 9 OUT 6 VD pmos3_CDNS_11 $T=279500 62800 0 0 $X=279500 $Y=62800
X213 9 6 6 VD pmos3_CDNS_11 $T=279500 120800 0 0 $X=279500 $Y=120800
X214 9 OUT 6 VD pmos3_CDNS_11 $T=279500 178800 0 0 $X=279500 $Y=178800
X215 9 6 6 VD pmos3_CDNS_11 $T=279500 236800 0 0 $X=279500 $Y=236800
X216 9 6 6 VD pmos3_CDNS_11 $T=295900 62800 0 0 $X=295900 $Y=62800
X217 9 OUT 6 VD pmos3_CDNS_11 $T=295900 120800 0 0 $X=295900 $Y=120800
X218 9 6 6 VD pmos3_CDNS_11 $T=295900 178800 0 0 $X=295900 $Y=178800
X219 9 OUT 6 VD pmos3_CDNS_11 $T=295900 236800 0 0 $X=295900 $Y=236800
X220 9 OUT 6 VD pmos3_CDNS_11 $T=312300 62800 0 0 $X=312300 $Y=62800
X221 9 6 6 VD pmos3_CDNS_11 $T=312300 120800 0 0 $X=312300 $Y=120800
X222 9 OUT 6 VD pmos3_CDNS_11 $T=312300 178800 0 0 $X=312300 $Y=178800
X223 9 6 6 VD pmos3_CDNS_11 $T=312300 236800 0 0 $X=312300 $Y=236800
X224 9 6 6 VD pmos3_CDNS_11 $T=328700 62800 0 0 $X=328700 $Y=62800
X225 9 OUT 6 VD pmos3_CDNS_11 $T=328700 120800 0 0 $X=328700 $Y=120800
X226 9 6 6 VD pmos3_CDNS_11 $T=328700 178800 0 0 $X=328700 $Y=178800
X227 9 OUT 6 VD pmos3_CDNS_11 $T=328700 236800 0 0 $X=328700 $Y=236800
X228 9 OUT 6 VD pmos3_CDNS_11 $T=345100 62800 0 0 $X=345100 $Y=62800
X229 9 6 6 VD pmos3_CDNS_11 $T=345100 120800 0 0 $X=345100 $Y=120800
X230 9 OUT 6 VD pmos3_CDNS_11 $T=345100 178800 0 0 $X=345100 $Y=178800
X231 9 6 6 VD pmos3_CDNS_11 $T=345100 236800 0 0 $X=345100 $Y=236800
.ends test_opamp_modgen
